US05663200
47i) 2,3,4-Trimethoxybenzyl bromide
2.04 g (10 mmol) of 2,3,4-trimethoxybenzyl alcohol in 30 ml of abs. toluene are treated with 0.258 ml (0.32 equivalents) of pyridine, and the solution is cooled down to approximately 4° C. using ice-water. 0.951 ml of phosphorus tribromide in 5 ml of abs. toluene is added dropwise, at this temperature and over the period of 30 min, to this solution, which is left to stir at this temperature for a further 45 min. The reaction mixture is diluted with ether and the whole is poured onto ice-water, with this mixture then being stirred for 5 min. After the phases have been separated, the organic phase is washed, in succession, with water, saline, sat. sodium bicarbonate solution and once again with saline (all being cold). After the organic phase has been dried over sodium sulfate, it is concentrated, and residual solvents are removed from the residue under high vacuum for 1 h. The resulting title compound is subjected, without purification, to further processing. 1H-NMR (200 MHz; CDCl3)=7.05/d (1H); 6.65/d (1H); 4.55/s (2H); 4.07, 3.88 and 3.85/each s (each 3H).

reactant | 2,3,4-trimethoxybenzyl alcohol | 10 mmol, 2.04 g | COC1=C(CO)C=CC(=C1OC)OC | C10H14O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | pyridine | 0.258 ml, 0.32 equivalents | N1=CC=CC=C1 | C5H5N
reactant | phosphorus tribromide | 0.951 ml | P(Br)(Br)Br | Br3P
solvent | ether | CCOCC | C4H10O
product | 2,3,4-Trimethoxybenzyl bromide | COC1=C(CBr)C=CC(=C1OC)OC | C10H13BrO3
